US07618975B2
(Isoquinolin-1-yl)-(4-methoxy-phenyl)-methyl-amine
A mixture of 1-chloroisoquinoline (50 mg, 0.31 mmol) and (4-methoxy-phenyl)-methyl amine (300 mg, 2.2 mmol) was heated in a sealed tube at 140° C. overnight. The crude product was purified by chromatography (5-6% ethyl acetate/hexanes) on silica gel to give the title compound (46 mg, 0.17 mmol, 57%). 1H NMR (CDCl3): 8.22 (d, 1H, 5.7), 7.68 (d, 1H, J=8.1), 7.62 (d, 1H, J=8.7), 7.47 (ddd, 1H, J=0.9, 6.9, 8.1), 7.24 (d, 1H, J=6.0), 7.19 (ddd, 1H, J=1.5, 6.9, 8.7), 6.94 (m, 2H), 6.79 (m, 2H), 3.76 (s, 3H), 3.52 (s, 3H).

reactant | 1-chloroisoquinoline | 0.31 mmol, 50 mg | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | (4-methoxy-phenyl)-methyl amine | 2.2 mmol, 300 mg | COC1=CC=C(C=C1)NC | C8H11NO
product | (Isoquinolin-1-yl)-(4-methoxy-phenyl)-methyl-amine | 0.17 mmol, 46 mg, 57% | C1(=NC=CC2=CC=CC=C12)N(C)C1=CC=C(C=C1)OC | C17H16N2O
